US04443477
4-(N-Methylbenzenesulphonamidomethyl)-cinnamic acid
A mixture of 5.1 g. (30 mmol) N-methylbenzenesulphonamide, 8.8 g. (33 mmol) ethyl 4-bromomethyl-cinnamate (m.p. 47° C.), 4.1 g. (30 mmol) potassium carbonate and 50 ml. dimethylformamide are heated, with stirring, for 4 days at 60° C. The reaction mixture is then cooled and stirred into cold water and the organic components extracted with diethyl ether. The ethereal solution is washed with 0.5 N aqueous sodium hydroxide solution, dried with anhydrous sodium sulphate and evaporated. The residue is recrystallized from isopropanol to give 7.9 g. (73% of theory) ethyl 4-(N-methylbenzenesulphonamidomethyl)-cinnamate; m.p. 112°-112.5° C.

reactant | N-methylbenzenesulphonamide | 30 mmol | CNS(=O)(=O)C1=CC=CC=C1 | C7H9NO2S
reactant | ethyl 4-bromomethyl-cinnamate | 33 mmol | BrCC1=CC=C(C=CC(=O)OCC)C=C1 | C12H13BrO2
reactant | potassium carbonate | 30 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-(N-methylbenzenesulphonamidomethyl)-cinnamate | CN(S(=O)(=O)C1=CC=CC=C1)CC1=CC=C(C=CC(=O)OCC)C=C1 | C19H21NO4S
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(N-Methylbenzenesulphonamidomethyl)-cinnamic acid | CN(S(=O)(=O)C1=CC=CC=C1)CC1=CC=C(C=CC(=O)O)C=C1 | C17H17NO4S
